US04816582
In the same manner as described in Example 9, from 12 g of (3S,4S)-3-amino-4-carbamoyloxymethyl-2-oxo-1-azetidinesulphonic acid and 2-(2-amino-4-thiazolyl)-2-[(Z)-[2-(methylsulphonyl)ethoxy]imino]-acetic acid there are obtained 1.15 g of (3S,4S)-3-[(Z)-2-(2-amino-4-thiazolyl)-2-[[2-(methylsulphonyl)ethoxy]imino]acetamido]-4-carbamoyloxymethyl-2-oxo-1-azetidinesulphonic acid.

reactant | (3S,4S)-3-amino-4-carbamoyloxymethyl-2-oxo-1-azetidinesulphonic acid | 12 g | N[C@@H]1C(N([C@@H]1COC(N)=O)S(=O)(=O)O)=O | C5H9N3O6S
reactant | 2-(2-amino-4-thiazolyl)-2-[(Z)-[2-(methylsulphonyl)ethoxy]imino]-acetic acid | NC=1SC=C(N1)/C(/C(=O)O)=N/OCCS(=O)(=O)C | C8H11N3O5S2
product | (3S,4S)-3-[(Z)-2-(2-amino-4-thiazolyl)-2-[[2-(methylsulphonyl)ethoxy]imino]acetamido]-4-carbamoyloxymethyl-2-oxo-1-azetidinesulphonic acid | 1.15 g | NC=1SC=C(N1)/C(/C(=O)N[C@@H]1C(N([C@@H]1COC(N)=O)S(=O)(=O)O)=O)=N/OCCS(=O)(=O)C | C13H18N6O10S3
